US09145415B2
To a suspension of tert-butyl (2-amino-2-methylpropyl)carbamate (1.98 g) and anhydrous sodium sulfate (3.00 g) in toluene (5 mL), benzaldehyde (1.07 mL) was added at room temperature, and the mixture was stirred for 11 hours under reflux by heating. The reaction mixture was cooled to room temperature, and then the solvent was evaporated under reduced pressure to obtain (E)-tert-butyl (2-(benzylideneamino)-2-methylpropyl)carbamate (G8).

reactant | tert-butyl (2-amino-2-methylpropyl)carbamate | 1.98 g | NC(CNC(OC(C)(C)C)=O)(C)C | C9H20N2O2
reactant | sodium sulfate | 3.00 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | benzaldehyde | 1.07 mL | C(C1=CC=CC=C1)=O | C7H6O
product | (E)-tert-butyl (2-(benzylideneamino)-2-methylpropyl)carbamate | C(/C1=CC=CC=C1)=N\C(CNC(OC(C)(C)C)=O)(C)C | C16H24N2O2
